US06518265B1
4-Hydroxy-2-phenyl-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline
A solution of 871 mg of 4-chloro-2-phenyl-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline and 2.5 ml of 6 N hydrochloric acid in 8 ml of 1,4-dioxane was refluxed for 3 hours. The reaction mixture was adjusted to pH 10 with 10% aqueous sodium hydroxide solution, and added with potassium carbonate, and then extracted with 1,2-dichloroethane. The extract was dried, and the solvent was evaporated. The resulting residue was washed with ethyl acetate to give 522 mg of pale brown crystals. Recrystallization from methanol gave pale brown crystals having the melting point of from 242.5 to 244° C.

reactant | 4-chloro-2-phenyl-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline | 871 mg | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCNCC2)C2=CC=CC=C2 | C23H23ClN4
reactant | hydrochloric acid | 6 N, 2.5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-2-phenyl-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline | 522 mg | OC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCNCC2)C2=CC=CC=C2 | C23H24N4O
